US06815447B2
6-Nitro-4-azido-2-(3-fluorophenyl)-quinoline
6-Nitro-4-chloro-2-(3-fluorophenyl)-quinoline 3.2 g (9.50 mmoles) was placed in a 250 mL three neck round bottom flask equipped with a condenser, magnetic stirrer, silicone oil heating bath, nitrogen inlet and gas outlet. To this was added 75 mL of N-methyl pyrrolidinone then 6.0 g (95 mmoles, 10 equiv.) of sodium azide. The mixture was stirred and warmed to 60° C. for 18 hr. After this time the mixture was cooled, poured into a 1 L separatory funnel containing 500 mL water and 250 mL of ethyl acetate. The pH was adjusted to 9.0 and the layers separated. The aqueous layer was extracted twice with 100 mL of ethyl acetate, the organic layers combined, dried over Na2SO4, filtered and concentrated to yield a product, which was carried to the next step without further purification.

reactant | 6-Nitro-4-chloro-2-(3-fluorophenyl)-quinoline | 9.50 mmoles, 3.2 g | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)Cl | C15H8ClFN2O2
reactant | N-methyl pyrrolidinone | 75 mL | CN1CCCC1=O | C5H9NO
reactant | sodium azide | 95 mmoles, 6.0 g, 10 equiv. | [N-]=[N+]=[N-].[Na+]
reactant | water | 500 mL | O | H2O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 6-Nitro-4-azido-2-(3-fluorophenyl)-quinoline | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)N=[N+]=[N-] | C15H8FN5O2
